US07951810B2
Step d: (2R,3S,5R)-5-(1H-pyrrolo[3,2-c]pyridin-1-yl)-2-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3-yl acetate
To a solution of (2R,3S,5R)-5-(1H-pyrrolo[3,2-c]pyridin-1-yl)-2-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3-ol (0.487 g, 1.25 mmol) and a catalytic amount of DMAP in pyridine (1.6 mL) at 0° C. was added acetic anhydride (0.130 mL, 1.38 mmol) dropwise. The reaction was stirred overnight, concentrated, dissolved in EtOAc, washed with 1 M aq HCl (1×), water (1×) and brine (1×). The combined organics were washed with water (2×), dried (Na2SO4), filtered, and concentrated to give the title compound (0.464 g, 95%) which was used without further purification.

reactant | (2R,3S,5R)-5-(1H-pyrrolo[3,2-c]pyridin-1-yl)-2-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3-ol | 1.25 mmol, 0.487 g | N1(C=CC=2C=NC=CC21)[C@H]2C[C@@H]([C@H](O2)CO[Si](C(C)C)(C(C)C)C(C)C)O | C21H34N2O3Si
reactant | acetic anhydride | 1.38 mmol, 0.130 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
product | (2R,3S,5R)-5-(1H-pyrrolo[3,2-c]pyridin-1-yl)-2-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3-yl acetate | 0.464 g, 95% | C(C)(=O)O[C@@H]1[C@H](O[C@H](C1)N1C=CC=2C=NC=CC21)CO[Si](C(C)C)(C(C)C)C(C)C | C23H36N2O4Si
